US05811389
7.4 ml of tert-butyllithium solution (1.4M in pentane) were slowly added dropwise under argon and at -78° to a solution of 2.5 g (7.93 mmol) of 4-diethoxymethyl-10-methyl-phenothiazine and 2.4 ml of N,N,N',N'-tetramethylethylenediamine in 25 ml of diethyl ether. The reaction mixture was brought slowly to room temperature, stirred for 3.5 hours and then treated with 1.32 ml (11.9 mmol) of N-formylpiperidine. The reaction mixture was stirred at 0° for 1 hour and then poured into 30 g of ice, 30 ml of 0.1N aqueous hydrochloric acid solution and 70 ml of ethyl acetate. The aqueous phase was extracted with ethyl acetate and the combined organic phases were dried over magnesium sulphate and evaporated. The residue was chromatographed on 200 g of silica gel with ethyl acetate/hexane (1:4), whereupon 310 mg (12.4%) of starting product and, after crystallization from ethyl acetate/hexane, 520 mg (19%) of 6-diethoxymethyl-10-methylphenothiazine-4-carbaldehyde were obtained as a yellow solid of m.p. 154°-154.5°.

reactant | tert-butyllithium | 1.4M, 7.4 ml | C(C)(C)(C)[Li]
reactant | 4-diethoxymethyl-10-methyl-phenothiazine | 7.93 mmol, 2.5 g | C(C)OC(C1=CC=CC=2N(C3=CC=CC=C3SC12)C)OCC | C18H21NO2S
reactant | N,N,N',N'-tetramethylethylenediamine | 2.4 ml | CN(CCN(C)C)C | C6H16N2
reactant | N-formylpiperidine | 11.9 mmol, 1.32 ml | C(=O)N1CCCCC1 | C6H11NO
reactant | hydrochloric acid | 0.1N, 30 ml | Cl | ClH
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 6-diethoxymethyl-10-methylphenothiazine-4-carbaldehyde | 520 mg, 19% | C(C)OC(C1=C2SC=3C(=CC=CC3N(C2=CC=C1)C)C=O)OCC | C19H21NO3S
